US04271172
A stream of gaseous hydrogen chloride is passed through a suspension of 11 g (0.0206 mole) of tert-butyl alpha-amino-4-benzyloxycarbonyl-8-phenyl-1-thia-3,8-diazaspiro[4.5]decane-2-acetate (obtained in 4.3) in 200 ml of nitromethane. After 1 hour, a clear solution is obtained which is filtered through "Hyflocel" and the filtrate is evaporated to dryness. The residue is taken up in diethyl ether, filtered and washed with diethyl ether. There are obtained 9.4 g of alpha-amino-4-benzyloxycarbonyl-8-phenyl-1-thia-3,8-diazaspiro[4.5]decane-2-acetic acid dihydrochloride. Yield: 95.5%; M.P. 164°-167° C. (decomposition).

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl alpha-amino-4-benzyloxycarbonyl-8-phenyl-1-thia-3,8-diazaspiro[4.5]decane-2-acetate | 0.0206 mole, 11 g | NC(C(=O)OC(C)(C)C)C1SC2(C(N1)C(=O)OCC1=CC=CC=C1)CCN(CC2)C2=CC=CC=C2 | C27H35N3O4S
solvent | nitromethane | 200 ml | [N+](=O)([O-])C | CH3NO2
product | alpha-amino-4-benzyloxycarbonyl-8-phenyl-1-thia-3,8-diazaspiro[4.5]decane-2-acetic acid dihydrochloride | 9.4 g, Yield: 95.5% | Cl.Cl.NC(C(=O)O)C1SC2(C(N1)C(=O)OCC1=CC=CC=C1)CCN(CC2)C2=CC=CC=C2 | InChI=1S/C23H27N3O4S.2ClH/c24-18(21(27)28)20-25-19(22(29)30-15-16-7-3-1-4-8-16)23(31-20)11-13-26(14-12-23)17-9-5-2-6-10-17;;/h1-10,18-20,25H,11-15,24H2,(H,27,28);2*1H
